US04918215
25.8 g (0.1 mol) of 4,4'-dibromostilbene, 10 g (0.1 mol) of ethyl acrylate, 18.5 g (0.1 mol) of tri-n-butylamine, 0.224 g (0.001 mol) of palladium acetate and 0.6 g (0.002 mol) of tri-o-tolylphosphine are added under argon to 50 ml of p-xylene. The reaction mixture is stirred at 90° C. for 4 hours. Working up gives 2 g (6% of theory) of ethyl 4-bromostilbene-4'-acrylate. Melting point 166.9° C.

reactant | 4,4'-dibromostilbene | 0.1 mol, 25.8 g | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
reactant | ethyl acrylate | 0.1 mol, 10 g | C(C=C)(=O)OCC | C5H8O2
reactant | tri-n-butylamine | 0.1 mol, 18.5 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | tri-o-tolylphosphine | 0.002 mol, 0.6 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.001 mol, 0.224 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
product | ethyl 4-bromostilbene-4'-acrylate | 2 g, 6% | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)C=CC(=O)OCC | C19H17BrO2
